US04647563
A mixture of 17.5 gm of 2-benzyloxy-5-bromoacetyl salicylamide, 17.6 gm of 1-(3-aminopropyl)-1H-benzotriazole, 6 gm of sodium carbonate and 150 ml of ethyl acetate was refluxed for 1.5 hours. After separation of the inorganic constituents, the mother liquor was evaporated, the residue was dissolved in a 100 ml of acetonitrile, and the solution was acidified with 5 gm of oxalic acid. The precipitated 1-[3-(3-carbamoyl-4-benzyloxy-β-oxophenethylamino)-propyl]-1-H-benzotriazole oxalate was collected by suction of filtration converted with aqueous ammonia into the base (m.p. 186°-188° C.) and reduced in 100 ml of ethanol with sodium borohydride to form 1-(3-carbamoyl-4-benzyloxy-β-hydroxyphenethylamino)propyl]-1-H-benzotriazole.

reactant | 2-benzyloxy-5-bromoacetyl salicylamide | 17.5 gm | C(C1=CC=CC=C1)OC1(C(C(=O)N)C=C(C=C1)C(CBr)=O)O | C16H16BrNO4
reactant | 1-(3-aminopropyl)-1H-benzotriazole | 17.6 gm | NCCCN1N=NC2=C1C=CC=C2 | C9H12N4
reactant | sodium carbonate | 6 gm | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | benzotriazole | N1N=NC2=C1C=CC=C2 | C6H5N3
